US08097610B2
A mixture of [3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}-4-methylphenyl]acetonitrile (1.14 g; 2.68 mmol), sodium hydroxide (0.54 g; 13.5 mmol), water (1.6 ml) and ethanol (21 ml) was stirred at 80° C. for 6 hours. The reaction solution was concentrated under reduced pressure and became pH=7 with 2N-aqueous hydrochloric acid. The precipitate was collected to give 3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}-4-methylphenyl acetic acid as colorless crystal (0.63 g; 53%).

reactant | [3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}-4-methylphenyl]acetonitrile | 2.68 mmol, 1.14 g | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCOC=2C=C(C=CC2C)CC#N)C=C1 | C23H24ClN3OS
reactant | sodium hydroxide | 13.5 mmol, 0.54 g | [OH-].[Na+]
reactant | water | 1.6 ml | O | H2O
solvent | ethanol | 21 ml | C(C)O | C2H6O
product | 3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}-4-methylphenyl acetic acid | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCOC=2C=C(C=CC2C)CC(=O)O)C=C1 | C23H25ClN2O3S
